US07429603B2
5-(Nitro-furan-2-ylmethyl)-(2-piperidin-1-yl-phenyl)-amine
A solution of 2-piperidinoaniline (1 mmol), 5-nitro-furan-2-carbaldehyde (1.1 mmol) and sodium triacetoxyborohydride (“NaBH(OAc)3”) (2 mmol) in anhydrous DCM (10 mL) was stirred 16 h at room temperature. The mixture was then washed successively with water, dilute aqueous sodium hydroxide (“NaOH”), water and brine before being dried over MgSO4, filtered and concentrated under reduced pressure. Purification of the residual oil by flash silica gel chromatography yielded the product. MS: 301 (M+1). LC/MS purity: 100%. 1H NMR (CDCl3, 300 MHz): δ 7.25 (d, 1H), 7.15-6.95 (m, 2H), 6.75 (t, 1H), 6.55 (d, 1H), 5.4 (bs, 1H), 4.45 (s, 2H), 2.8 (bm, 4H), 1.8-1.5 (bm, 6H).

reactant | 2-piperidinoaniline | 1 mmol | N1(CCCCC1)C1=C(N)C=CC=C1 | C11H16N2
reactant | 5-nitro-furan-2-carbaldehyde | 1.1 mmol | [N+](=O)([O-])C1=CC=C(O1)C=O | C5H3NO4
reactant | sodium triacetoxyborohydride | 2 mmol | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
product | 5-(Nitro-furan-2-ylmethyl)-(2-piperidin-1-yl-phenyl)-amine | [N+](=O)([O-])C(C=1C=CC(=C(C1)N)N1CCCCC1)C=1OC=CC1 | C16H19N3O3
